US08314117B2
(5S,6S,9R)-6-(3,5-difluorophenyl)-5-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate.
MS(ESI)[M+H+]=578.26. Potassium carbonate (785 mg, 5.68 mmol) was added to the methanol (5 mL) solution of (5S,6S,9R)-5-acetoxy-6-(3,5-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (328 mg, 0.568 mmol) at room temperature. The reaction was stirred at room temperature for 1 h before removal of the solvent. The crude was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed again with water before dried (sodium sulfate), filtered and concentrated. Flash chromatography using methanol in methylene chloride from 0 to 10% gave the desired product (135.3 mg, 42%). HPLC tR=2.17 min, MS(ESI)[M+H+]=536.26, 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 10.61 (br. s., 1H) 8.52 (d, J=3.78 Hz, 1H) 7.97-8.14 (m, 2H) 7.23-7.58 (m, 2H) 7.02 (dd, J=7.81, 5.29 Hz, 1H) 6.80-6.90 (m, 2H) 6.75 (tt, J=8.84, 2.23 Hz, 1H) 5.94 (br. s., 1H) 5.15 (d, J=9.57 Hz, 1H) 4.31-4.79 (m, 3H) 2.87-3.26 (m, 2H) 2.68-2.80 (m, 1H) 2.03-2.55 (m, 5H) 1.76-2.00 (m, 3H); 19F NMR (376 MHz, CHLOROFORM-d) δ ppm −108.58 (br. s., 2F).

reactant | Potassium carbonate | 5.68 mmol, 785 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (5S,6S,9R)-5-acetoxy-6-(3,5-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 0.568 mmol, 328 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C=2C1=NC=CC2)OC(C)=O)C2=CC(=CC(=C2)F)F | C30H29F2N5O5
solvent | methanol | 5 mL | CO | CH4O
product | (5S,6S,9R)-6-(3,5-difluorophenyl)-5-hydroxy-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 135.3 mg, 42% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C=2C1=NC=CC2)O)C2=CC(=CC(=C2)F)F | C28H27F2N5O4
